A Berkeley SPICE3 compatible circuit  
*  
* This circuit contains only Berkeley SPICE3 components.  
*  
* The circuit is an AC coupled transistor amplifier with  
* a sinewave input at node "1", a gain of approximately -3.9,  
* and output on node "coll".  
*  
.tran 1e-5 2e-3  
*  
vcc vcc 0 12.0  
vin 1 0 0.0 ac 1.0 sin(0 1 1k)  
ccouple 1 base 10uF  
rbias1 vcc base 100k 
rbias2 base 0 24k  
q1 coll base emit generic
rcollector vcc coll 3.9k  
remitter emit 2 1k
*
.model generic npn  
*    
i1 2 0 100u
.control
 let id = 100u
 repeat 5
  alter i1 $&id
  tran 1e-5 2e-3
  let id = id + 100u
  print i1
 end
.endc
.end

